US07169926B1
To a solution of 3-nitro-pyridine-2,4-diol (5.0 g, 32.3 mmol) in DMF (50 mL) at 0° C. was added NaH (2.6 g, 64.0 mmol 60% in mineral oil). After stirring at 0° C. for 15 min, benzyl bromide (6.03 g, 35.2 mmol) was added and the reaction was stirred at 55° C. for 17 h. The mixture was cooled to room temperature, poured into ice water, and filtered to remove insoluble material. The filtrate was acidified with 1 N HCl, extracted with CH2Cl2, dried with MgSO4, and concentrated. The product was washed with EtOH to give 1-benzyl-4-hydroxy-3-nitro-1H-pyridine-2-one (3.30 g, 42% yield). 1H-NMR (DMSO): δ 7.90 (d, 1H, J=7.6 Hz), 7.27–7.38 (m, 5H), 6.12 (d, 1H, J=7.6 Hz), 5.08 (s, 2H). MS: calculated for C12H10N2O4+H 247.1; found: 247.2.

reactant | 3-nitro-pyridine-2,4-diol | 32.3 mmol, 5.0 g | [N+](=O)([O-])C=1C(=NC=CC1O)O | C5H4N2O4
reactant | NaH | 64.0 mmol, 2.6 g | [H-].[Na+]
reactant | benzyl bromide | 35.2 mmol, 6.03 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-4-hydroxy-3-nitro-1H-pyridine-2-one | 3.30 g, 42% yield | C(C1=CC=CC=C1)N1C(C(=C(C=C1)O)[N+](=O)[O-])=O | C12H10N2O4
